US08791130B2
To a solution of 3-chloro-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)benzonitrile (135 mg, 6.41 mmol) in DMF (2 mL) was added sodium azide (80 mg, 1.24 mmol) and ammonium chloride (66 mg, 1.24 mmol). The mixture was heated at 125° C. for 18 h. The mixture was cooled, filtered and the solid washed with ethyl acetate. The filtrated was concentrated under reduced pressure and the crude residue was diluted with water (5 mL) and diethyl ether (5 mL). A precipitate formed which was filtered and washed with further portions of water and diethyl ether. The solid was co-evaporated with dichloromethane and methanol and then dried in a vacuum oven to yield N2-(2-chloro-4-(2H-tetrazol-5-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine (130 mg, 85%). LCMS (ESCI_Formic_MeCN): [MH+]=371 at 3.11 min. 1H NMR (400 MHz, DMSO): δ 8.94 (s, 1H); 8.26-8.19 (m, 2H); 8.14 (d, J=2.0, 1H); 8.03-7.96 (m, 1H); 7.30-7.22 (m, 1H); 2.89 (t, J=4.4, 3H).

reactant | 3-chloro-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)benzonitrile | 6.41 mmol, 135 mg | ClC=1C=C(C#N)C=CC1NC1=NC=C(C(=N1)NC)C(F)(F)F | C13H9ClF3N5
reactant | sodium azide | 1.24 mmol, 80 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.24 mmol, 66 mg | [Cl-].[NH4+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N2-(2-chloro-4-(2H-tetrazol-5-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | 130 mg, 85% | ClC1=C(C=CC(=C1)C=1N=NNN1)NC1=NC=C(C(=N1)NC)C(F)(F)F | C13H10ClF3N8
